US07514446B2
A mixture of 5-bromo-2,4-dichloropyrimidine (1.25 g, 5.5 mmol) and 1-(2-aminophenyl)ethanone (675 mg, 5.0 mmol) with sodium bicarbonate (1.26 g, 15.0 mmol) in 4:1 EtOH/THF (7.5 mL) was stirred at 80° C. for 14 hours. The reaction was cooled to room temperature and the resulting mixture was filtered, washing the solid with cold EtOH. The collected solid was stirred in hot water, filtered, and the resulting solid washed with cold EtOH. The solid was then dried under vacuum to give 1-{2-[(5-bromo-2-chloropyrimidin-4-yl)amino]phenyl}ethanone (761 mg, 47%) as a yellow solid. 1H NMR (DMSO-d6): δ 11.91 (s, 1H), 8.60-8.64 (m, 2H), 8.15 (d, 1 H), 7.74 (t, 1 H), 7.31 (t, 1 H), 2.72 (s, 3 H). MS m/z 326 (M+1).

reactant | 5-bromo-2,4-dichloropyrimidine | 5.5 mmol, 1.25 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 1-(2-aminophenyl)ethanone | 5.0 mmol, 675 mg | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | sodium bicarbonate | 15.0 mmol, 1.26 g | C([O-])(O)=O.[Na+]
solvent | EtOH THF | 7.5 mL | CCO.C1CCOC1
product | 1-{2-[(5-bromo-2-chloropyrimidin-4-yl)amino]phenyl}ethanone | 761 mg, 47% | BrC=1C(=NC(=NC1)Cl)NC1=C(C=CC=C1)C(C)=O | C12H9BrClN3O
